US08034812B2
To a solution of ethyl salicylate (1010 mg, 6.1 mmol) in N,N-dimethylformamide (8 mL) was added potassium tert-butoxide (840 mg, 6.4 mmol) at 0° C., and the mixture was stirred at 0° C. for 5 min and at room temperature for 25 min. To the reaction mixture were added N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (1.0 g, 3.1 mmol) and potassium carbonate (420 mg, 3.1 mmol), and the mixture was stirred at 100° C. for 24 hr. The solvent was evaporated under reduced pressure, ethyl acetate/tetrahydrofuran and water were added to the residue. The aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=40/60→90/10) to give ethyl 2-({2[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoate (200 mg, 18%) as a white solid.

reactant | ethyl salicylate | 6.1 mmol, 1010 mg | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | potassium tert-butoxide | 6.4 mmol, 840 mg | CC(C)([O-])C.[K+]
reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 3.1 mmol, 1.0 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | potassium carbonate | 3.1 mmol, 420 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | ethyl 2-({2[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoate | 200 mg, 18% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC2=C(C(=O)OCC)C=CC=C2)C1 | C19H18N4O4
